US07595345B2
C. 2-(4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-2-methyl-propionic acid methyl ester
4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid (437 mg, 1.07 mmol), α-aminoisobutyric acid methyl ester hydrochloride (247 mg, 1.61 mmol), 1-(3-dimethyl-aminopropyl)-3-ethylcarbodiimide hydrochloride (309 mg, 1.61 mmol), 1-hydroxybenzotriazole hydrate (218 mg, 1.61 mmol) and triethylamine (597 μL, 4.28 mmol) are reacted and purified analogous to Example 1J to give the title compound (419 mg, 77%).

reactant | 4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid | 1.07 mmol, 437 mg | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(CC)(O)CC)C)C1=CC(=C(C(=O)O)C=C1)C | C27H34O3
reactant | α-aminoisobutyric acid methyl ester hydrochloride | 1.61 mmol, 247 mg | Cl.COC(C(C)(C)N)=O
reactant | 1-hydroxybenzotriazole hydrate | 1.61 mmol, 218 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 4.28 mmol, 597 μL | C(C)N(CC)CC | C6H15N
product | 2-(4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-2-methyl-propionic acid methyl ester | 419 mg, 77% | COC(C(C)(C)NC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC(CC)(O)CC)C)CC)C)=O)=O | C32H43NO4
